US07935699B2
In a round bottom flask was placed triphenylphosphine (2.42 g, 9.25 mmol) and imidazole (1.26 g, 18.49 mmol) in methylene chloride (20 ml) and it was cooled to 0° C. in an ice bath. To this cooled solution was added iodine (2.35 g, 9.25 mmol). Once the iodine dissolved a solution of (3,3-dimethoxy-cyclobutyl)-methanol (1.04 g, 7.11 mmol) in methylene chloride (10 ml) was added. The reaction was stirred at 0° C. for 30 min and then at 25° C. for 2 h. After this time the reaction was poured into ice cold water (50 ml) and extracted with methylene chloride (2×30 ml). The combined organic layers were washed with 1.0 N sodium thiosulfate (50 ml), dried over sodium sulfate, filtered and concentrated in vacuo. Flash column chromatography (Merck Silica gel 60, 230-400 mesh, 30% ethyl acetate/hexanes to 40% ethyl acetate/hexanes) afforded 3-iodomethyl-1,1-dimethoxy-cyclobutane (1.34 g, 74%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 1.72-1.81 (m, 2H, CH2), 2.28-2.53 (m, 3H, CH2 and CH), 3.14 (s, 3H, OCH3), 3.16 (s, 3H, OCH3), 3.29 (d, J=7.7 Hz, 2H, ICH2).

reactant | triphenylphosphine | 9.25 mmol, 2.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 18.49 mmol, 1.26 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 9.25 mmol, 2.35 g | II | I2
reactant | (3,3-dimethoxy-cyclobutyl)-methanol | 7.11 mmol, 1.04 g | COC1(CC(C1)CO)OC | C7H14O3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-iodomethyl-1,1-dimethoxy-cyclobutane | 1.34 g, 74% | ICC1CC(C1)(OC)OC | C7H13IO2
